US04022897
When 2-amino-4-fluoro-3-pyridinol and bromine in a 1:1 molar ratio are passed through a glass tube heated at 350°, and the exit gases condensed and distilled, there is obtained 2-amino-5-bromo-4-fluoro-3-pyridinol.

reactant | 2-amino-4-fluoro-3-pyridinol | NC1=NC=CC(=C1O)F | C5H5FN2O
reactant | bromine | BrBr | Br2
product | 2-amino-5-bromo-4-fluoro-3-pyridinol | NC1=NC=C(C(=C1O)F)Br | C5H4BrFN2O
